* Audio Limiter / Compressor
* Threshold: When audio peak > 0.5V, attenuation kicks in (up to -20dB)

Vin in 0 SIN(0 1.0 1k)

* Signal Path: Buffer → Attenuator → Output
Ebuf1 sig_in 0 in 0 1
R_fix sig_in att_out 1k

* JFET as voltage-controlled shunt (drain=att_out, gate=gate, source=0)
J1 att_out gate 0 NJFET_VCR

Ebuf2 out 0 att_out 0 1

* Side-chain: precision rectifier (ideal half-wave)
Esc sc_in 0 out 0 1
Erect rect_out 0 VALUE = { V(sc_in) > 0 ? V(sc_in) : 0 }

* Peak detector: fast attack, slow release
D_peak rect_out peak_in IDEAL
R_att peak_in peak 470
C_peak peak 0 2.2u
R_rel peak 0 47k

* Error amp: Vth=0.5V, gain=5
Eerr ctrl 0 VALUE = { 5 * LIMIT(0, V(peak) - 0.5, 1) }

* Gate smoothing
R_gate ctrl gate 10k
C_gate gate 0 1u

* Models
.model IDEAL D(Is=1e-14 N=0.01 Rs=1m)
.model NJFET_VCR NJF(VTO=-2 BETA=1m LAMBDA=0 RD=10 RS=10)

.tran 0.01m 50m

.control
run
.endc

.end