* Audio Limiter - Sound Level Gate/Compressor
* When input amplitude exceeds threshold, output is attenuated
*
* Circuit Blocks:
* 1. Variable-gain attenuator (voltage divider + controlled shunt)
* 2. Precision peak detector (side-chain)
* 3. Error amplifier / threshold comparator
* 4. Attack/release timing control

* --- Signal Source ---
* Sine with ramping amplitude to demonstrate limiting
Vin in 0 DC 0 SIN(0 0.15 1k)

* --- Variable Attenuator ---
* R1 in series, controlled shunt to ground
* When ctrl_volt=0: shunt is high-Z, signal passes unattenuated  
* When ctrl_volt>0: shunt conducts, forming voltage divider
R1 in vca_out 1k

* Behavioral shunt: G = 1/R = ctrl_volt * gain_factor
* At max control: R_effective ~ 100 ohms
* Attenuation at max: 100/(100+1k) = 0.09 = -21dB
Gshunt vca_out 0 VALUE = { V(vca_out) * V(ctrl_smooth) * 0.01 }

* --- Output Buffer ---
Eout out 0 vca_out 0 1

* --- Side-Chain: Full-Wave Rectifier ---
* Precision absolute-value circuit
Babs abs_out 0 V = ABS(V(vca_out))

* --- Peak Detector ---
* Attack time = R_attack * C_peak = fast
* Release time = R_release * C_peak = slow
D1 abs_out peak_in 1N4148
R_attack peak_in peak 10
C_peak peak 0 10u
R_release peak 0 47k

* --- Error Amplifier ---
* Vth = 0.2V peak threshold (~0.14V RMS)
* When peak < Vth: error = 0 (no attenuation)
* When peak > Vth: error = peak - Vth, with gain=10
Berr ctrl_raw 0 V = 10 * LIMIT(0, (V(peak) - 0.2), 0.5)

* --- Control Voltage Smoothing ---
R_ctrl ctrl_raw ctrl_smooth 1k
C_ctrl ctrl_smooth 0 4.7u

* --- Diode Model ---
.model 1N4148 D(Is=2.52n Rs=0.568 N=1.752 Cjo=4p M=0.4 tt=20n)

* --- Analysis ---
* 30ms transient: amplitude ramps up, showing limiter action
.tran 0.05m 30m

.control
run
plot V(in) V(out)
print V(ctrl_smooth)
.endc

.end