* Audio Limiter / Compressor - Behavioral Model
* 
* Signal path: Input → Buffer → Voltage-Controlled Attenuator → Output
* Side-chain: Output → Envelope Detector → Threshold Comparator → Control Voltage
*
* When envelope > threshold: attenuation increases
* Attack time ~2ms, Release time ~100ms

Vin in 0 SIN(0 1.0 1k)

* ---- Signal Path ----
Ebuf sig_in 0 in 0 1

* Voltage-controlled attenuator using behavioral resistor
* Vout = Vin * Rshunt / (Rfix + Rshunt)
* Rshunt = Rmax when ctrl=0, Rshunt → Rmin when ctrl=1
* Rmax = 100k (essentially no attenuation)
* Rmin = 100 (maximum attenuation ≈ 100/(100+1000) = 0.09 = -21dB)
Rfix sig_in att_out 1k
Gshunt att_out 0 VALUE = { V(att_out) / (100 + 100000 * (1 - V(ctrl)) * (1 - V(ctrl))) }

Eout out 0 att_out 0 1

* ---- Side-Chain: Envelope Detector ----
* RMS-based envelope (no diodes needed!)
* Step 1: Square the signal
Bpwr sqr 0 V = V(out) * V(out)

* Step 2: Low-pass filter (envelope extraction)
* Attack: R_attack charges C quickly via diode action (fast rising)
* Release: R_release discharges C slowly
Datt sqr env_in IDEAL
R_att env_in env 100
Cenv env 0 10u
R_rel env 0 100k

* Step 3: Square root to get linear envelope
Bamp amp 0 V = SQRT(V(env))

* ---- Threshold Comparator ----
* Threshold = 0.5V (envelope)
* When amp > 0.5: error = (amp - 0.5) * gain
* Gain = 10 for aggressive limiting
Eerr err 0 VALUE = { 10 * LIMIT(0, V(amp) - 0.5, 0.5) }

* ---- Control Voltage Smoothing ----
R_ctrl err ctrl 1k
C_ctrl ctrl 0 2.2u

* ---- Models ----
.model IDEAL D(Is=1e-14 N=0.01 Rs=1m)

* ---- Analysis ----
.tran 0.01m 50m

.control
run
.endc

.end