* Audio Limiter v5 - Aggressive Limiting
*
* To demonstrate clear limiting: ramp input amplitude
* and show output clamps at threshold

* Input with rising amplitude: 0.1V → 1.5V over 50ms
Vin in 0 SIN(0 {0.1 + time*28} 1k)

* ---- Signal Path ----
Ebuf sig_in 0 in 0 1

* Voltage-Controlled Attenuator
* Shunt resistance controlled by ctrl voltage [0, 1]
Rfix sig_in att_out 1k
Gshunt att_out 0 VALUE = { V(att_out) / (10 + 200000 * pow(MAX(0.001, 1-V(ctrl)), 3)) }

Eout out 0 att_out 0 1

* ---- RMS Envelope Detector ----
Bpwr sqr 0 V = V(out) * V(out)

Datt sqr env_in IDEAL
R_att env_in env 100
Cenv env 0 22u
R_rel env 0 100k

Bamp amp 0 V = SQRT(V(env))

* ---- Error Amplifier ----
* Higher gain = more aggressive limiting
Eerr err 0 VALUE = { LIMIT(0, 8 * (V(amp) - 0.35), 1) }

* ---- Control Filter ----
R_ctrl err ctrl 1k
C_ctrl ctrl 0 1u

* ---- Models ----
.model IDEAL D(Is=1e-14 N=0.01 Rs=1m)

.tran 0.02m 50m

.control
run
.endc

.end