* Audio Limiter / Compressor
* Threshold: When audio peak > 0.5V, attenuation kicks in
* Gain reduction: up to -20dB at max compression
*
* Topology:
*   INPUT → Buffer → [R_fix + JFET_shunt] → Output Buffer
*   Side-chain: Output → Precision Rectifier → Peak Detector → Error Amp → JFET Gate

* ==================== SIGNAL SOURCE ====================
* 1kHz sine, 1V peak (line level)
Vin in 0 SIN(0 1.0 1k)

* ==================== SIGNAL PATH ====================
* Input buffer (voltage follower, gain=1)
Ebuf1 sig_in 0 in 0 1

* Attenuator: series resistor + controlled shunt to ground
* R_fix = 1k, shunt = JFET acting as voltage-controlled resistor
* When JFET off (Vgs=0): shunt ≈ 10kΩ, attenuation ≈ 10k/(1k+10k) = 0.91 (minimal)
* When JFET on (Vgs=-1V): shunt ≈ 100Ω, attenuation ≈ 100/(1k+100) = 0.09 (-21dB)
R_fix sig_in att_out 1k

* JFET as voltage-controlled resistor (shunt to ground)
* JFET drain = att_out, source = GND
* Gate voltage controls channel resistance
J1 att_out 0 gate 0 NJFET_VCR

* Output buffer
Ebuf2 out 0 att_out 0 1

* ==================== SIDE-CHAIN ====================
* Gain stage to bring signal to usable level for rectifier
* Side-chain sees the attenuated output (feedback)
Esc sc_in 0 out 0 1

* Precision half-wave rectifier using op-amp + diode
* Eliminates diode forward voltage drop
* Op-amp model: high-gain VCVS
Erect rect_out 0 VALUE = { V(sc_in) > 0 ? V(sc_in) : 0 }

* Peak detector with attack/release time constants
* Attack: R_att * C_peak ≈ 1ms (fast response)
* Release: R_rel * C_peak ≈ 100ms (smooth recovery)
D_peak rect_out peak_in IDEAL
R_att peak_in peak 470
C_peak peak 0 2.2u
R_rel peak 0 47k

* Error amplifier: compares peak to threshold
* When peak > Vth: generates control voltage
* Vth = 0.5V peak threshold
* Error gain = 5
Eerr ctrl 0 VALUE = { 5 * LIMIT(0, V(peak) - 0.5, 1) }

* Gate drive low-pass filter (prevents distortion)
R_gate ctrl gate 10k
C_gate gate 0 1u

* ==================== MODELS ====================
* Ideal diode for peak detector (negligible Vf)
.model IDEAL D(Is=1e-14 N=0.01 Rs=1m)

* JFET model for voltage-controlled resistor
* VTO = -2V (pinch-off), BETA = 1m (on resistance ~100Ω at Vgs=0)
.model NJFET_VCR NJF(VTO=-2 BETA=1m LAMBDA=0 RD=10 RS=10)

* ==================== ANALYSIS ====================
* 50ms transient to show limiting in action
.tran 0.01m 50m

.control
run
.endc

.end